US06071921
Using an analogous procedure to that described for the starting material in Example 1, 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (560 mg) was reacted in the presence of catalytic potassium iodide with 4-(chloromethyl)pyrimidine (375 mg) to give 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(pyrimidin-4-ylmethoxy)quinazoline (496 mg, 74%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 560 mg | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C
reactant | potassium iodide | [I-].[K+]
reactant | 4-(chloromethyl)pyrimidine | 375 mg | ClCC1=NC=NC=C1 | C5H5ClN2
product | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(pyrimidin-4-ylmethoxy)quinazoline | 496 mg, 74% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC=NC=C2)C=CC1C | C23H21N5O4
